US06797725B2
3-[1-(3,5-Dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid (3aR, 5aS, 8aS, 8bR)-2,2,7,7-tetramethyl-tetrahydro-bis[1,3]dioxolo[4,5-b;4′,5′-d]pyran-5-ylmethyl ester was dissolved in the mixture of 5.0 mL of 6 N HCl aq. and 20 mL of THF. The resultant mixture was stirred at room temperature for 3 h and 40° C. for 1 h and concentrated. The residue was washed with ethyl acetate and THF and dried to give 133 mg (60%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid (3R, 4S, 5R)-3,4,5,6-tetrahydroxy-tetrahydro-pyran-2-ylmethyl ester as a yellow solid.

reactant | 3-[1-(3,5-Dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid (3aR, 5aS, 8aS, 8bR)-2,2,7,7-tetramethyl-tetrahydro-bis[1,3]dioxolo[4,5-b;4′,5′-d]pyran-5-ylmethyl ester | CC1(O[C@H]2[C@H](OC([C@H]3[C@@H]2OC(O3)(C)C)COC(=O)N3C(\C(\C2=CC=CC=C32)=C/C=3NC(=CC3C)C)=O)O1)C | C28H32N2O8
solvent | HCl | 6 N, 5.0 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid (3R, 4S, 5R)-3,4,5,6-tetrahydroxy-tetrahydro-pyran-2-ylmethyl ester | 133 mg, 60% | O[C@H]1C(OC([C@@H]([C@H]1O)O)O)COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C22H24N2O8
